* C:\_CHRobotics\Hardware\smartPower\LTC3112_5Vout.asc
XU1 0 N008 N007 0 Vin MP_01 N005 Vi Vout MP_02 MP_03 N002 MP_04 N004 N001 MP_05 N003 N005 N005 LTC3112
L1 N001 N002 10µ Ipk=7 Rser=.0173
C1 N001 N003 0.1µ
C2 N002 N004 0.1µ
C3 Vin 0 10µ
C4 N005 0 1µ
V1 Vin 0 15V Rser=0
C5 Vout 0 200µ
R1 0 Vi 42.2k
C6 0 Vi 100p
R2 Vout N007 1.4MEG
R3 N007 0 500k
R4 N006 N007 10k
R5 N007 N009 33k
C7 Vout N006 47p
C8 N007 N008 22p
C9 N009 N008 150p
R6 Vout 0 100
;tf Vout Vin
.tran 0 .01 0 steady
.lib LTC3112.sub
.backanno
.end
